US07858632B2
5-[5-Iodo-2-isopropyl-4-(2-trimethylsilanyloxy-ethoxy)-phenoxy]-pyrimidine-2,4-diamine (0.38 g, 0.69 mmol) in a solution of HOAc/THF/H2O in a ratio of 3:1:1.95 ml) was heated at 65° C. for 16 hrs. The pH of the reaction mixture was adjusted to pH=9 and extracted into methylene chloride. The combined eatracts was dried over Na2SO4, filtered and concentrated. Flash chromatography on silica (5% MeOH in methylene chloride with 0.1% NH40H) gave 2-[4-(2,4-Diamino-pyrimidin-5-yloxy)-2-iodo-5-isopropyl-phenoxy]-ethanol (0.25 g, 86% ) as a white solid. (M+H)=431

reactant | 5-[5-Iodo-2-isopropyl-4-(2-trimethylsilanyloxy-ethoxy)-phenoxy]-pyrimidine-2,4-diamine | 0.69 mmol, 0.38 g | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OCCO[Si](C)(C)C | C18H27IN4O3Si
solvent | HOAc THF H2O | CC(=O)O.C1CCOC1.O
product | 2-[4-(2,4-Diamino-pyrimidin-5-yloxy)-2-iodo-5-isopropyl-phenoxy]-ethanol | 0.25 g, 86% | NC1=NC=C(C(=N1)N)OC1=CC(=C(OCCO)C=C1C(C)C)I | C15H19IN4O3
